US07605172B2
A mixture of 1-bromo-6-(2-phenyl-1,3-thiazol-4-yl)-2-naphthol (351 mg, 0.918 mmol), prepared in step 1 of Example 3, bromoacetonitrile (77 μL, 1.11 mmol) and cesium carbonate (1.505 g, 4.62 mmol) in 25 mL of acetone was stirred under nitrogen at room temperature for 19 h (overnight). The reaction was concentrated under reduced pressure to remove the acetone. The residue was partitioned between methylene chloride and water. The aqueous layer was separated and extracted three times with methylene chloride. The combined extracts were dried (MgSO4), filtered and the solvent removed under reduced pressure to give {[1-bromo-6-(2-phenyl-1,3-thiazol-4-yl)-2-naphthyl]oxy}acetonitrile (382 mg, 99%) as a light tan solid, mp 157-160° C. Elemental Analysis for C21H13BrN2OS Calc'd: C, 59.87; H, 3.11; N, 6.65. Found: C, 59.56; H, 3.28; N, 6.56.

reactant | 1-bromo-6-(2-phenyl-1,3-thiazol-4-yl)-2-naphthol | 0.918 mmol, 351 mg | BrC1=C(C=CC2=CC(=CC=C12)C=1N=C(SC1)C1=CC=CC=C1)O | C19H12BrNOS
reactant | bromoacetonitrile | 1.11 mmol, 77 μL | BrCC#N | C2H2BrN
reactant | cesium carbonate | 4.62 mmol, 1.505 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetone | 25 mL | CC(=O)C | C3H6O
product | {[1-bromo-6-(2-phenyl-1,3-thiazol-4-yl)-2-naphthyl]oxy}acetonitrile | 382 mg, 99% | BrC1=C(C=CC2=CC(=CC=C12)C=1N=C(SC1)C1=CC=CC=C1)OCC#N | C21H13BrN2OS
